US06462075B1
2,6-Di(1-naphthylidene)cyclohexanone.
(77) To a solution of the 1-naphthaldehyde (1.56 g, 10.0 mmol) and cyclohexanone (491 mg, 5.0 mmol) in 2.5 ml of ethanol was added 1.0 ml 10% sodium hydroxide at 0° C. After stirring for 12 hr at room temperature, the solution was filtered. The precipitate was recrystallized from ethyl acetate to afford 1.35 g (72.2%) of bright-yellow flakes: mp 211.8-213.1° C. (lit. mp 212° C., Aizenshtat, et al., J. Org. Chem., 1977, 42, 2386-2394). 1H NMR (250 MHz) δ 8.46 (s, 2H), 8.09 (m, 2H), 7.89 (t, 4H), 7.61-7.46 (m 6H), 2.82 (t, 4H), 1.71 (p, 2H); 13C NMR (62.7 MHz) 190.3, 138.5, 135.5, 133.7, 133.3, 132.2, 129.1, 128.7, 127.2, 126.6, 126.4, 125.2, 125.0, 29.0, 23.8 ppm.

reactant | 1-naphthaldehyde | 10.0 mmol, 1.56 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | cyclohexanone | 5.0 mmol, 491 mg | C1(CCCCC1)=O | C6H10O
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
solvent | ethanol | 2.5 ml | C(C)O | C2H6O
product | 2,6-Di(1-naphthylidene)cyclohexanone | C1(CC=CC2=CC=CC=C12)=C1C(C(CCC1)=C1CC=CC2=CC=CC=C12)=O | C26H22O
